US07838675B2
ii) (2R)-1-(triphenylmethoxy)-2-propanol
To a suspension of (2R)-1,2-propanediol (1.9 mL) in toluene (20 mL) was added triethylamine (8.3 mL) and 4-dimethylaminopyridine (32 mg). The mixture was ice-cooled and 1,1′,1″-(chloromethylidyne)tris-benzene (6.6 g) was added and the mixture stirred at ambient temperature for 20 h. The reaction mixture was diluted with toluene then extracted with ammonium chloride solution (×2), then brine (×1) and the organic layer was dried (MgSO4), filtered and evaporated. The resulting oil was triturated with iso-hexane to give subtitle compound as a white solid. Yield: 4 g

reactant | (2R)-1,2-propanediol | 1.9 mL | C([C@@H](C)O)O | C3H8O2
reactant | triethylamine | 8.3 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1′,1″-(chloromethylidyne)tris-benzene | 6.6 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 32 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2R)-1-(triphenylmethoxy)-2-propanol | C1(=CC=CC=C1)C(OC[C@@H](C)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22O2
